US04029787
6-Methyl-4-(4-methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-hydrochloride
125 g of 4-chloro-6-methyl-3-sulfamoylbenzoic acid (0.5 mole) were heated under reflux with 0.5 l of N-methylpiperazine for 6 hours. Subsequently the excess base was eliminated in vacuo, and the residue was dissolved in 1 l of water. After the solution had been acidified with concentrated hydrochloric acid, the final product precipitated in a crystalline form. After having stood at room temperature for 1 hour, it was suction-filtered and was dissolved and recrystallized from 50% ethanol, while activated charcoal was added.

reactant | 4-chloro-6-methyl-3-sulfamoylbenzoic acid | 0.5 mole, 125 g | ClC1=C(C=C(C(=O)O)C(=C1)C)S(N)(=O)=O | C8H8ClNO4S
reactant | N-methylpiperazine | 0.5 l | CN1CCNCC1 | C5H12N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 l | O | H2O
product | 6-Methyl-4-(4-methylpiperazine-1-yl)-3-sulfamoylbenzoic acid-hydrochloride | Cl.CC1=CC(=C(C=C1C(=O)O)S(N)(=O)=O)N1CCN(CC1)C | InChI=1S/C13H19N3O4S.ClH/c1-9-7-11(16-5-3-15(2)4-6-16)12(21(14,19)20)8-10(9)13(17)18;/h7-8H,3-6H2,1-2H3,(H,17,18)(H2,14,19,20);1H
